US07964724B2
Potassium carbonate (8.0 g, 58.0 mmol) and iodoethane (3.0 mL, 37.7 mmol) were added to a stirred solution of 5-t-butyl-4-chloro-2-iodophenol (2.4 g, 8.1 mmol; prepared according to Fukata et al. Bull. Chem. Soc. Jpn. 1994, 67, 592-594) in 2-butanone (50 mL). The resulting mixture was heated in an oil bath (80° C.) for 16 h and then allowed to cool. The solution was concentrated and redisolved in methylene chloride. The organic layer was washed with water, brine, dried over anhydrous magnesium sulfate and concentrated to give 4-tert-butyl-5-chloro-2-ethoxy-1-iodobenzene (2.2 g, 85%) as a yellow oil.

reactant | Potassium carbonate | 58.0 mmol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 37.7 mmol, 3.0 mL | ICC | C2H5I
reactant | 5-t-butyl-4-chloro-2-iodophenol | 8.1 mmol, 2.4 g | C(C)(C)(C)C=1C(=CC(=C(C1)O)I)Cl | C10H12ClIO
solvent | 2-butanone | 50 mL | CC(CC)=O | C4H8O
product | 4-tert-butyl-5-chloro-2-ethoxy-1-iodobenzene | 2.2 g, 85% | C(C)(C)(C)C1=CC(=C(C=C1Cl)I)OCC | C12H16ClIO
